* Schematics Netlist *



C_C6         $N_0001 $N_0002  50n  
C_C5         $N_0001 $N_0003  50n  
X_U1         0 $N_0004 $N_0005 $N_0006 $N_0007 uA741
X_U3         0 $N_0001 $N_0010 $N_0011 $N_0012 uA741
R_R1         $N_0016 $N_0015  10k  
R_R4         $N_0017 $N_0007  10k  
R_R5         $N_0007 $N_0002  10k  
R_R6         $N_0002 $N_0001  10k  
R_R8         $N_0003 $N_0012  10k  
L_L2         $N_0004 $N_0017  0.5  
L_L1         $N_0004 $N_0015  0.5  
V_V1         $N_0005 0 2V
V_V2         0 $N_0006 2V
V_V3         $N_0010 0 2V
V_V4         0 $N_0011 2V
V_V14         $N_0016 0 DC 0V AC 0.5V 
R_R3         $N_0004 $N_0017  10k  
R_R9         0 $N_0012  1k  
R_R2         $N_0015 $N_0004  10k  
R_R7         $N_0001 $N_0003  10k  
